US09024032B2
To a solution of 545 mg (3.5 mmol) of 1-methoxy-3-oxobut-1-en-2-yl acetate in THF (14.2 mL) at −78° C. was added LHMDS (3.45 mL of a 1 M solution in toluene) dropwise. After stirring for min at −78° C., the reaction mixture was treated with 0.4 mL (3.5 mmol) of benzoyl chloride dropwise, then removed from the cold bath and allowed to warm to room temperature and continue stirring for 18 h. The reaction was quenched with 10 mL 10% aq HCl and extracted with diethyl ether (3×10 mL). The organic fractions were combined, washed with sat. aq. NaCl, dried (Na2SO4), and concentrated under reduced pressure to provide 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate which was used the subsequent step without further purification. To a solution of crude 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate (3.5 mmol) in toluene (35 mL) was added pyridinium p-toluenesulfonate (130 mg, 0.5 mmol). The reaction mixture was heated at reflux under a nitrogen atmosphere for 1 h before being cooled and concentrated under reduced pressure and purified by flash chromatography (80 g SiO2, 0-100% ethyl acetate/hexanes gradient elution) to provide 4-oxo-6-phenyl-4H-pyran-3-yl acetate. LC/MS (M+H)+ 231.

reactant | 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate | 3.5 mmol | C(C)(=O)OC(=COC)C(CC(C1=CC=CC=C1)=O)=O | C14H14O5
reactant | pyridinium p-toluenesulfonate | 0.5 mmol, 130 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 4-oxo-6-phenyl-4H-pyran-3-yl acetate | C(C)(=O)OC1=COC(=CC1=O)C1=CC=CC=C1 | C13H10O4
